US04340599
1.5 ml of a saturated methanolic sodium hydroxide solution are allowed to run rapidly into 22 g of dimethyl phosphite and 26 g of glyoxylic acid butyl ester. The reaction which proceeds is highly exothermic. The mixture is subsequently stirred at 25° for some hours and worked up by distillation to give 33.6 g of dimethoxyphosphinylhydroxy-acetic acid butyl ester (yield: 70%). Boiling point 0.05 : 75°-82° C. (thin film evaporator). 1H-NMR (CDCl3): δ=0.93 (3H, t, J=5 Hz, CH3), 3.86 (6H, d, J=11 Hz, CH3O), 4.23 (2H, t, J=6 Hz, OCH2) and 4.63 ppm (1H, d, J=18 Hz, P-CH)

reactant | sodium hydroxide | 1.5 ml | [OH-].[Na+]
reactant | dimethyl phosphite | 22 g | P(OC)(OC)[O-]
reactant | glyoxylic acid butyl ester | 26 g | C(CCC)OC(C=O)=O | C6H10O3
product | dimethoxyphosphinylhydroxy-acetic acid butyl ester | 33.6 g, yield: 70% | C(CCC)OC(C(O)P(=O)(OC)OC)=O | C8H17O6P
